US08048881B2
311.1. Trifluoro-methanesulfonic acid 1,4-dioxa-spiro[4.5]dec-7-en-8-yl ester
A lithium bis(trimethysilyl)amide solution (1M in THF, 7 ml) in THF (20 ml) was cooled down to −78° C. and 1,4-dioxaspiro[4,5]decan-8-one (1 g) in THF (7 ml) was added slowly. The mixture was stirred for 2 h 30 at −78° C. N-phenyl-bis(trifluoromethanesulfonimide) (2.45 g) in THF (8 ml) was added slowly. The temperature was then allowed to increase to 0° C. It was further stirred at 0° C. for 2 h. The solvent was evaporated off (water bath temperature: 25° C.) and HV dried. The crude was used without purification.

reactant | lithium bis(trimethysilyl)amide | 1M, 7 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1,4-dioxaspiro[4,5]decan-8-one | 1 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 2.45 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | Trifluoro-methanesulfonic acid 1,4-dioxa-spiro[4.5]dec-7-en-8-yl ester | O1CCOC12CC=C(CC2)OS(=O)(=O)C(F)(F)F | C9H11F3O5S
